US08431563B2
1,1,1,3,3,3-hexafluoro-2-(4-(1-piperazinyl)phenyl)-2-propanol (1.9 g, 5.8 mmol, published PCT patent application no. WO 2006/094842) was dissolved in acetic acid (10 mL). Bromine (1.9 g, 12 mmol) was added drop wise. The reaction was allowed to stir at room temperature until a solid precipitated. The solid was filtered, dissolved in EtOAc (100 mL) and washed with 1 N NaOH (3×50 mL). The organic layer was separated and washed with water (100 mL), brine (50 mL), dried (Na2SO4), filtered, and concentrated. The residue was dissolved in CH2Cl2 (20 mL). To this was added Hünig's base (1.0 mL) and 2-thiophenesulfonyl chloride (1.1 g, 5.8 mmol, Sigma-Aldrich, St. Louis, Mo.) at room temperature. After 3 h, the mixture was purified via column chromatography (40 g of silica, 10% EtOAc in hexanes) to afford 2-(3-bromo-4-(4-(thiophenylsulfonyl)piperazinyl)phenyl)-1,1,1,3,3,3-hexafluoro-2-propanol (1.5 g).

reactant | 1,1,1,3,3,3-hexafluoro-2-(4-(1-piperazinyl)phenyl)-2-propanol | FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)N1CCNCC1)(F)F | C13H14F6N2O
reactant | Bromine | 12 mmol, 1.9 g | BrBr | Br2
reactant | Hünig's base | 1.0 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-thiophenesulfonyl chloride | 5.8 mmol, 1.1 g | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 2-(3-bromo-4-(4-(thiophenylsulfonyl)piperazinyl)phenyl)-1,1,1,3,3,3-hexafluoro-2-propanol | 1.5 g | BrC=1C=C(C=CC1N1CCN(CC1)S(=O)(=O)C=1SC=CC1)C(C(F)(F)F)(C(F)(F)F)O | C17H15BrF6N2O3S2
